US09402833B2
Int-63: Ethyl 5-(2-(7-fluoro-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate (Isomer-I)
The title compound (Int-63) was prepared by the method similar to that for Int-84 using 2-(7-fluoro-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)pyrrolidine ((Int-56A) and Ethyl 5-bromopyrazolo[1,5-a]pyridine-3-carboxylate to afford as pale brown solid. LCMS (ESI): m/z 412.85 (M+H).

reactant | 2-(7-fluoro-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)pyrrolidine | FC=1C=C(C2=C(OCCO2)C1)C1NCCC1 | C12H14FNO2
reactant | Ethyl 5-bromopyrazolo[1,5-a]pyridine-3-carboxylate | BrC1=CC=2N(C=C1)N=CC2C(=O)OCC | C10H9BrN2O2
product | Ethyl 5-(2-(7-fluoro-2,3-dihydrobenzo[b][1,4]dioxin-5-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate | FC=1C=C(C2=C(OCCO2)C1)C1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)OCC | C22H22FN3O4
